US07553973B2
Step 3: (4-Bromo-2-hydroxy-5-methylphenyl)(4-fluorophenyl)methanone
A solution of (4-bromo-2-methoxy-5-methylphenyl)(4-fluorophenyl)methanone (1.80 g, 5.57 mmol) in CH2Cl2 (6 mL) was added over 10 min to a 0° C. solution of BBr3 (1.05 mL, 11.1 mmol) in the same solvent (14 mL) and the resulting mixture was stirred at 0° C. After 1.5 h, the reaction mixture was poured into 200 mL of ice-water, vigorously stirred for 10 min and extracted with CHCl3 (3×). The combined organic extracts were washed with water and brine, dried (Na2SO4) and concentrated, affording the title compound. 1H NMR (500 MHz, acetone-d6): δ 11.46 (s, 1H), 7.88 (m, 2H), 7.58 (s, 1H), 7.37 (m, 2H), 7.32 (s, 1H), 2.34 (s, 3H).

reactant | (4-bromo-2-methoxy-5-methylphenyl)(4-fluorophenyl)methanone | 5.57 mmol, 1.80 g | BrC1=CC(=C(C=C1C)C(=O)C1=CC=C(C=C1)F)OC | C15H12BrFO2
reactant | BBr3 | 11.1 mmol, 1.05 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | (4-Bromo-2-hydroxy-5-methylphenyl)(4-fluorophenyl)methanone | BrC1=CC(=C(C=C1C)C(=O)C1=CC=C(C=C1)F)O | C14H10BrFO2
